US03932425
A mixture of the free base prepared from 0.81 g. of 3',4'-dihydrospiro[cyclohexane-1,2'(1'H)-naphthalen]-4-yl-N-methylamine hydrochloride [I(c)] (obtained as in Example 14C), 0.63 g. of potassium iodide, 0.96 g. of potassium carbonate and 0.87 g. of the 2,2-dimethyl-1,3-propanediol ketal of 4-chloro-4'-fluorobutyrophenone in 15 ml. of dimethylformamide is heated together in an oil bath at about 90° C. for about 20 hours. The solvent is removed under vacuum and the residue dissolved in water and benzene. The organic layer is washed with water and brine and evaporated to dryness. A mixture of the residue, 6 ml. of 2.5 N hydrochloric acid and 12 ml. of methanol is stirred at room temperature for about 1.5 hours and most of the methanol removed under vacuum. The residual suspended solid is collected on a filter, washed with ether and recrystallized from methanol: ethyl acetate to give 4'-fluoro-4-[3',4'-dihydrospiro[cyclohexane-1,2'(1'H)-naphthalen]-4-yl-N-methylamino]butyrophenone hydrochloride [I(c)].

reactant | 3',4'-dihydrospiro[cyclohexane-1,2'(1'H)-naphthalen]-4-yl-N-methylamine hydrochloride | Cl.C1C2(CCC3=CC=CC=C13)CCC(CC2)NC
reactant | potassium iodide | [I-].[K+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-4'-fluorobutyrophenone | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4'-fluoro-4-[3',4'-dihydrospiro[cyclohexane-1,2'(1'H)-naphthalen]-4-yl-N-methylamino]butyrophenone hydrochloride | Cl.FC1=CC=C(C=C1)C(CCCN(C)C1CCC2(CC3=CC=CC=C3CC2)CC1)=O | InChI=1S/C26H32FNO.ClH/c1-28(18-4-7-25(29)21-8-10-23(27)11-9-21)24-13-16-26(17-14-24)15-12-20-5-2-3-6-22(20)19-26;/h2-3,5-6,8-11,24H,4,7,12-19H2,1H3;1H
